US05068300
Z,E-1,4-Bis-(4-carboxy-styryl)-benzene
131 g of Z,E-1,4-Bis-(4-carbo-tert.-butoxy-styryl)benzene are boiled under reflux with 6.5 g of p-toluenesulphonic acid in 1 l of toluene for 3 hours. The reaction product is evaporated to dryness and heated for a further 4 hours with 30 g of NaOH in 300 ml of water and 600 ml of ethanol. The ethanol is distilled off and the residue is acidified (conc. HCl) after dilution with water. The product is suction filtered and dried.

reactant | Z,E-1,4-Bis-(4-carbo-tert.-butoxy-styryl)benzene | 131 g | C(=O)(OC(C)(C)C)C1=CC=C(/C=C/C2=CC=C(C=C2)\C=C/C2=CC=C(C=C2)C(=O)OC(C)(C)C)C=C1 | C32H34O4
reactant | p-toluenesulphonic acid | 6.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
product | Z,E-1,4-Bis-(4-carboxy-styryl)-benzene | C(=O)(O)C1=CC=C(/C=C/C2=CC=C(C=C2)\C=C/C2=CC=C(C=C2)C(=O)O)C=C1 | C24H18O4
